US07625908B2
The procedure described in Example 2.3 (preparation of starting materials) was repeated using chlorotris(triphenylphosphine)rhodium (I) and 4-[(5-{(1R)-2-[allyl(methyl)amino]-1-methylethoxy}quinazolin-4-yl)amino]-2-methylphenol to give 2-methyl-4-({5-[(1R)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-yl}amino)-phenol as a brown foam in 56% yield; NMR spectrum (DMSO-d6) 1.41 (d, 3H), 2.15 (s, 3H), 2.33 (s, H), 2.87 (m, 2H), 4.85 (m, 1H), 6.77 (d, 1H), 7.14 (d, 1H), 7.25 (d, 1H), 7.43 (s, 1H), 7.46 (d, 1H), 7.64 (t, 1H), 8.38 (s, 1H), 9.14 (s, 1H), 10.35 (s, 1H); Mass spectrum MH+ 339.

reactant | 4-[(5-{(1R)-2-[allyl(methyl)amino]-1-methylethoxy}quinazolin-4-yl)amino]-2-methylphenol | C(C=C)N(C[C@H](OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C)C)C | C22H26N4O2
catalyst | chlorotris(triphenylphosphine)rhodium (I) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 2-methyl-4-({5-[(1R)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-yl}amino)-phenol | 56% yield | CC1=C(C=CC(=C1)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CNC)C)O | C19H22N4O2
